US05015683
N,N'-Bis[di(1-octyloxy-2,2,6,6-tetramethylpiperidin-4-yl)aminocarbonyl]-1,6-hexanediamine
The title compound is prepared by the reaction of bis(1-octyloxy-2,2,6,6-tetramethylpiperidin-4-yl)amine with hexamethylene diisocyanate.

reactant | bis(1-octyloxy-2,2,6,6-tetramethylpiperidin-4-yl)amine | C(CCCCCCC)ON1C(CC(CC1(C)C)NC1CC(N(C(C1)(C)C)OCCCCCCCC)(C)C)(C)C | C34H69N3O2
reactant | hexamethylene diisocyanate | C(CCCCCN=C=O)N=C=O | C8H12N2O2
product | N,N'-Bis[di(1-octyloxy-2,2,6,6-tetramethylpiperidin-4-yl)aminocarbonyl]-1,6-hexanediamine | C(CCCCCCC)ON1C(CC(CC1(C)C)N(C(=O)NCCCCCCNC(=O)N(C1CC(N(C(C1)(C)C)OCCCCCCCC)(C)C)C1CC(N(C(C1)(C)C)OCCCCCCCC)(C)C)C1CC(N(C(C1)(C)C)OCCCCCCCC)(C)C)(C)C | C76H150N8O6
